US07223791B2
A mixture of methyl 3-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoate (1.04 g), 1 M aqueous sodium hydroxide solution (10 ml), tetrahydrofuran (30 ml) and methanol (30 ml) was stirred at 60° C. for 1 hr. After cooling, the reaction mixture was poured into water, and 1 M hydrochloric acid (20 ml) was added. The crystals were collected by filtration and recrystallized from ethanol to give 3-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoic acid (0.876 g, yield 88%) as a colorless crystalline powder. melting point: 276–277° C.

reactant | methyl 3-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoate | 1.04 g | FC(C1=CC=C(C=C1)C1=CC(=NO1)C=1C=C(C(=O)OC)C=CC1)(F)F | C18H12F3NO3
reactant | sodium hydroxide | 1 M, 10 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M, 20 ml | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 3-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoic acid | 0.876 g, yield 88% | FC(C1=CC=C(C=C1)C1=CC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C17H10F3NO3
